US07585885B2
2-Cyclopropylamino-6-cyclopropanesulfonyl-isonicotinic acid tert-butyl ester
Add 2-chloro-6-cyclopropanesulfonyl-isonicotinic acid tert-butyl ester (0.190 g, 0.607 mmol), palladium acetate (0.020 g, 0.091 mmol), racemic 2,2′-bis(diphenylphosphino)-1,1′-binaphthyl (0.057 g, 0.091 mmol), cesium carbonate (0.297 g, 0.911 mmol), and (S)-sec-butylamine (0.063 mL, 0.911 mmol) in toluene (5 mL) to a sealed tube flushed with nitrogen. Heat and stir the reaction mixture at 90° C. for 18 h. Cool and filter the mixture through a pad of filtering agent, concentrate and purify (silica gel chromatography, eluting with 20:80 ethyl acetate:hexanes) to give the title compound (0.120 g, 59%).

reactant | 2-chloro-6-cyclopropanesulfonyl-isonicotinic acid tert-butyl ester | 0.607 mmol, 0.190 g | C(C)(C)(C)OC(C1=CC(=NC(=C1)S(=O)(=O)C1CC1)Cl)=O | C13H16ClNO4S
reactant | racemic 2,2′-bis(diphenylphosphino)-1,1′-binaphthyl | 0.091 mmol, 0.057 g | C1(=CC=CC=C1)P(C1=C(C2=CC=CC=C2C=C1)C1=C(C=CC2=CC=CC=C12)P(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C44H32P2
reactant | cesium carbonate | 0.911 mmol, 0.297 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | (S)-sec-butylamine | 0.911 mmol, 0.063 mL | [C@H](C)(CC)N | C4H11N
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
catalyst | palladium acetate | 0.091 mmol, 0.020 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 2-Cyclopropylamino-6-cyclopropanesulfonyl-isonicotinic acid tert-butyl ester | 0.120 g, 59% | C(C)(C)(C)OC(C1=CC(=NC(=C1)S(=O)(=O)C1CC1)NC1CC1)=O | C16H22N2O4S
